Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
cefaclor / Penicillins / erythromycin base
 
Attending: ___
 
Chief Complaint:
altered mental status and sepsis, with
TEE showing AV and MV vegetations and blood cultures positive 
for
serratia. 
 
Major Surgical or Invasive Procedure:
TEE; Closure aortic root abscess with pericardial patch; Aortic 
Root Enlargement using 6CM x 8CM Pericardial Patch; Aortic Valve 
Replacement using 23MM CE Perimount Magna Ease Pericardial 
Bioprosthesis Aortic Valve (Tissue); Mitral Valve Repair using 
28MM CE Physio II Annuloplasty Mitral Ring

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: ___ male w/ h/o IVDU and 
HCV who initially presented to OSH ___ w/ altered mental status. 
He was accompanied by his brother who reported 4-day history of 
shoulder pain and unspecified rash. Patient was febrile to 
101.8, tachycardic to 120s, otherwise hemodynamically stable. 
Labs were notable for WBC 19, lactate 2.1, Cr 1.5 (baseline 
1.0), troponin 0.61, NTproBNP of 6600, and transaminitis (AST 
155, ALT 123, Tbili 1.1, alk phos 107). Utox positive for 
opioids. EKG with sinus tachycardia; no heart block or ischemic 
changes. CXR remarkable for bilateral lower lobe infiltration 
and increased pulmonary vascular markings. CT abdomen with 
splenomegaly and 2.3 x 1.4 x 1.4 hypoattenuated subcapsular 
lesion concerning for septic embolus. BCx ___ positive 
for GNR later speciated as S. marcescens. UCx likewise positive 
for S. marcescens. TTE initially unremarkable for endocarditis, 
albeit poorly visualized aortic valve. TEE was therefore 
pursued, which demonstrated a large, predominant RCC aortic 
valve vegetation with associated abscess cavity freely 
communicating with the LVOT and 4+ AR. CTA head without evidence 
of septic emboli.  

 

Empiric vancomycin/imipenem initiated for endocarditis. Empiric 
acyclovir and corticosteroids added for concern for meningitis. 
HCP deferred LP. Prior to transfer, patient complained of chest 
pain. Became tachycardic to 140s; pressures dropped to ___. 
Repeat EKG showed isolated 1mm ST depressions in V4, unchanged 
from prior study. CTA chest without pulmonary artery filling 
defect. Required intermittent Haldol for delirium. He was 
transferred to ___ CCU in anticipation of surgical management.

 

On arrival to the CCU, patient was unable to participate in 
interview on account of altered mental status. 

 
Past Medical History:
PAST MEDICAL HISTORY:  

1. CARDIAC RISK FACTORS: none  

 

2. CARDIAC HISTORY: none  

 

3. OTHER PAST MEDICAL HISTORY  

-HCV, untreated

-Pyelonephritis

-Nephrolithiasis 

 
Social History:
___
Family History:
FAMILY HISTORY:  

No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  

 
Physical Exam:
Admission Physical Exam:
VS: T 99.4 HR 134 BP 127/76 RR 29 O2 97% RA
GENERAL: distress, disheveled, innumerable tattoos
HEENT: PERRL, poor dentition, no oropharyngeal lesions
Neck: supple, no JVD, no LAD
CV: tachycardiac, reg rhythm, S1, diminished S2, diastolic 
murmur at LUSB
PULM: tachypneic, grunting, transmitted upper airway sounds, 
scattered crackles
GI: obese, soft, NT, ND, normoactive BS, exam otherwise limited 
by body habitus
GU: Foley
EXT: warm, well perfused, ___ pitting edema to shin bilaterally 

NEURO: awake, inattentive, oriented x1, confused, otherwise 
non-focal   

Discharge Exam:
==============
Vital Signs:
Tmax: 98.2 Tcurrent: 97.4   B/P: 118/79   HR/Rhythm: 68 SR   
RR: 18 SaO2: 100% RA             
Wt: 115.6 (kg)  
Intake: 1020   Output: 1700
Physical Examination:
General/Neuro:  NAD  [x] A/O x3 [x] non-focal [x] 
Cardiac: RRR [x]  Irregular []  Nl S1 S2 []
Lungs: scattered rhonchi   No resp distress [x]
Abd:  NBS [x]Soft [x] ND [x] NT [x]
Extremities:  no CCE[x]   Pulses: palpable [x]  
Wounds: Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] 

 
Pertinent Results:
Admission Labs:
==================
___ 10:39PM   TYPE-ART PO2-81* PCO2-21* PH-7.48* TOTAL 
CO2-16* BASE XS--4
___ 10:39PM   GLUCOSE-105 LACTATE-1.5 K+-4.1
___ 10:39PM   O2 SAT-95
___ 10:39PM   freeCa-1.13
___ 10:25PM   GLUCOSE-109* UREA N-29* CREAT-1.1 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-113* TOTAL CO2-16* ANION GAP-14
___ 10:25PM   estGFR-Using this
___ 10:25PM   ALT(SGPT)-24 AST(SGOT)-36 CK(CPK)-46* ALK 
PHOS-69 AMYLASE-37 TOT BILI-0.7
___ 10:25PM   LIPASE-36
___ 10:25PM   CK-MB-7 cTropnT-0.11*
___ 10:25PM   ALBUMIN-2.2* CALCIUM-7.8* PHOSPHATE-3.9 
MAGNESIUM-2.5
___ 10:25PM   VoidSpec-CLOTTED SA
___ 10:25PM   HCT-UNABLE TO 
___ 10:25PM   ___ PTT-22.4* ___
___ 08:43PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 08:43PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-4* PH-6.0 
LEUK-SM*
___ 08:43PM URINE  RBC-23* WBC-14* BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 08:43PM URINE  RBC-23* WBC-14* BACTERIA-FEW* YEAST-NONE 
EPI-0

Discharge Labs:
___ 05:02AM BLOOD WBC-12.7* RBC-3.54* Hgb-10.2* Hct-31.5* 
MCV-89 MCH-28.8 MCHC-32.4 RDW-14.7 RDWSD-46.5* Plt ___
___ 05:02AM BLOOD Plt ___
___ 05:02AM BLOOD Glucose-92 UreaN-16 Creat-0.6 Na-140 
K-4.6 Cl-104 HCO3-22 AnGap-14
___ 02:00PM BLOOD ALT-19 AST-31 AlkPhos-57 Amylase-98 
TotBili-0.5
___ 05:02AM BLOOD Calcium-8.6 Phos-3.3 Mg-1.9

Imaging:
ECHO ___
Prebypass
 No spontaneous echo contrast is seen in the body of the left 
atrium or left atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. The left ventricular cavity is mildly 
dilated. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is normal (LVEF>55%). 
[Intrinsic left ventricular systolic function is likely more 
depressed given the severity of valvular regurgitation.] Right 
ventricular chamber size and free wall motion are normal. The 
number of aortic valve leaflets cannot be determined. An aortic 
annular abscess is seen. There is no aortic valve stenosis. 
Severe (4+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. No mass or vegetation is seen on 
the mitral valve. Severe (4+) mitral regurgitation is seen. Due 
to the eccentric nature of the regurgitant jet, its severity may 
be significantly underestimated (Coanda effect). There is no 
pericardial effusion. Dr. ___ was notified in person 
of the results on ___ at 1015 am. A left pleural effusion 
is present. Post bypass
Patient is AV paced and receiving an infusion of Epinephrine, 
Vasopressin and Norepinephrine. Biventricular systolic function 
is mildly depressed. LVEF= 45% . Annuloplasty ring seen in the 
mitral position. It appears well seated. Moderate mitral 
regurgitation seen. Mean gradient across the mitral valve is 6 
mm Hg. Bioprosthetic valve seen in the aortic position. It 
appears well seated. Trivial central aortic insufficiency seen. 
Mean gradient across the aortic valve is 22 mm Hg. Aorta intact 
post decannulation.  
 
Radiology Report CHEST PORT LINE/TUBE PLCT 1 EXAM Study Date of 
___ 
Final Addendum 
ADDENDUM  Review of the images has demonstrated that the last 
radiograph was taken with the right PICC line terminating at the 
level of low SVC, thus  appropriate and no further repositioning 
is required. 
___, MD electronically signed on ___ ___ 
11:28 AM 
 
Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
3:54 ___ 
FINDINGS:  
There is no evidence of acute intracranial hemorrhage.  Known 
enhancing foci of acute infarct concerning for septic emboli 
demonstrated on prior MRI head of ___haracterized on noncontrast CT examination.  
No evidence of acute large territorial infarct. 
There is no evidence of fracture.  There is mucosal thickening 
of bilateral maxillary sinuses.  There is ossification of the 
left mastoid air cells.  The visualized portion of the remaining 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  The visualized portion of the orbits are 
unremarkable. 
IMPRESSION:   
1. No evidence of intracranial hemorrhage.  No acute large 
territory infarct. 
2. No new enhancing foci of acute infarct concerning for septic 
emboli 
demonstrated on prior MRI are not well characterized on 
noncontrast CT 
examination. 
3. No displaced calvarial fracture. 
   
___, MD 
___, MD electronically signed on ___ ___ 7:07 
___ 
 
___ ___ M ___ ___ Microbiology Lab Results
                             **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ (___) AT 
20:12 ON
      ___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

   ___ ___ M ___ ___ Microbiology Lab Results
 ___ 11:30 am TISSUE      AORTIC ROOT ABSCESS. 
   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 
   TISSUE (Final ___: 
      Reported to and read back by ___ ___ 
12:05PM. 
      SERRATIA MARCESCENS.    MODERATE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML      
_________________________________________________________
                             SERRATIA MARCESCENS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 
   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 

 
Brief Hospital Course:
Medical Service work-up:
ASSESSMENT AND PLAN: ___ male w/ h/o IVDU and HCV 
admitted to OSH with sepsis found to have aortic valve infective 
endocarditis c/b 4+ AR and S. marcescens bacteremia; transferred 
in anticipation of surgical intervention. 
#) PUMP: aortic valve endocarditis/abscess with 4+ AR, as above  
 
#) RHYTHM: sinus tachycardia 
#) Sepsis
#) S. marcecens bacteremia
#) AV infective endocarditis c/b perivalvular abscess and severe 
AR: transient hypotension per OSH report, but otherwise 
hemodynamically stable at present without shock. MAPs acceptable 
in the absence of diuresis or afterload reduction. Serial BCx 
speciated as S. marcecens, susceptible to carbapenem. 
Hematogenous spread via urinary source (i.e., UCx similarly with 
Serratia and CT abdomen with perinephric stranding) versus 
needle contamination. Could de-escalate, given susceptibility 
profile, with mindfulness of listed PCN/cephalosporin allergies. 
MRSA screen negative. Tentatively planned for Bentall ___. CTA 
head at OSH without evidence of intracranial septic emboli. We 
consulted Cardiac Surgery, and Infectious disease. We also 
treated with meropenam 500mg and per ID we d/c's his vancomycin. 
We also got fungal blood cultures. The patient was s/p 
imipenem/cilastatin (___).
#) Toxic metabolic encephalopathy: hyperactive delirium, 
requiring pharmacologic restraint. Presume related to 
bacteremia, as above. No evidence of septic emboli on CTA head. 
Initially received empiric coverage for meningitis at OSH; LP 
deferred. UDS positive for opioids, but otherwise negative. 
Other drug effect or withdrawal conceivable; received trivial 
amount of BZ at OSH.  We treated with antibiotics as listed 
above. 
#) Troponiemia: 0.87 -> 0.84 (___) at OSH. SS chest pain prior 
to transfer. ___epression in V4 unchanged from prior. 
NTproBNP 6000; suspect AR-related strain in that regard. We got 
repeat EKGs and repeated his troponins
#) ___, non-oliguric: Cr 1.5 (baseline 1.0) -> 1.1 on arrival. 
Probable transient hypotension/sepsis. Septic emboli and/or 
immunologic phenomenon in the context of IE conceivable, though 
no dysmorphic RBCs/casts on UA.  
#) Coagulopathy: isolated minor ___ prolongation. Probable 
diminished synthetic function in the context of hypoalbuminemia 
and seemingly cirrhotic liver. We trended his coagulation 
factors. 
#) HCV
#) Transaminitis: suspect untreated HCV, given nodular hepatic 
surface and splenomegaly on CT abdomen, suggesting cirrhotic 
change. 
#) Opioid use disorder: active IVDU; details uncertain. Will 
obtain collateral. We consulted ___ for opioid addiction consult.
Cardiac Surgery Course:
The patient was brought to the Operating Room on ___ where 
the patient underwent root enlargement with root patch/AVR 
#23CE/MVr #28mm ring.  Overall the patient tolerated the 
procedure well and post-operatively was transferred to the CVICU 
in stable condition for recovery and invasive monitoring.  He 
arrived out on Levo/vaso/Epi gtt. He was weaned off all gtts 
within ___. Remained intubated for few days due to mental 
status, confusion agitation. Patient was confused pre-op with 
concern for septic emboli pre-op. He was seen by the neurology 
service and underwent imaging MRI showed multiple lesions 
consistent with septic emboli.Continuous EEG has revealed no 
seizures.
 He was extubated on POD2, remained very tachypneic with 
significant resp alkalosis. This was associated with 
hypertension and tachycardia. In light of drug history 
withdrawal syndrome was a concern and his narcotics were 
adjusted to meet his pain needs. Lopressor and Lasix started. 
Chest tubes and pacing wires were removed per cardiac surgery 
protocol without difficulty or complications. His menatal status 
was slow to improve, he was seen by neurology and addiction 
services. He had a negative head CT. 
The patient was transferred to the telemetry floor for further 
recovery.  The patient worked with nursing and was evaluated by 
the physical therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 13 the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged to the 
___ in good condition with appropriate follow up 
instructions. He will need to complete a six week course of 
antibiotics prior to discharge. He may benefit from continued 
addiction counseling +/- suboxone therapy

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO/PR Q6H:PRN pain or temperature 
>38.0  
2.  Aspirin 81 mg PO DAILY  
3.  Bisacodyl ___AILY:PRN constipation  
4.  Ciprofloxacin HCl 750 mg PO Q12H 
last day ___  
5.  Meropenem 1000 mg IV Q8H 
last day ___  
6.  Metoprolol Tartrate 25 mg PO TID  
7.  OxyCODONE (Immediate Release) 5 mg PO Q12HRS/PRN Pain - 
Moderate *AST Approval Required*
RX *oxycodone 5 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*45 Tablet Refills:*0 
8.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*45 Tablet Refills:*0 
9.  Vancomycin Oral Liquid ___ mg PO Q6H 
through ___  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Sepsis/endocarditis s/p root enlargement/root patch 
w/pericardium/AVR(23 CE tissue)MVr(28 CE ring) 
C. Diff. positive

Secondary/PMH:
IVDU-+tox screen at OSH
-uses suboxone he buys on street
HCV-untreated
pyelonephritis
kidney stones

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, deconditioned
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema-none

Edema 1+

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for one month or while taking narcotics. Driving 
will be discussed at follow up appointment with surgeon- when 
you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___